US07820822B2
A: N-Phenylethyl-2-bromobenzamide
A mixture of 62.7 ml (500 mmol) of phenylethylamine, 70.4 ml (506 mmol) of triethylamine and 150 ml of dichloromethane was admixed dropwise at 0° C. with a solution of 109.2 g of 2-bromobenzoyl chloride in 50 ml of dichloromethane with good stirring at such a rate that the temperature did not exceed 30° C. Subsequently, the mixture was stirred at room temperature for a further 1 h. The colorless solid thus obtained was filtered off with suction, washed three times with 200 ml of dichloromethane and dried under reduced pressure. The yield at a purity of approx. 99.0% was 138.2 g (453 mmol), 90.7% of theory.

reactant | phenylethylamine | 500 mmol, 62.7 ml | C1(=CC=CC=C1)CCN | C8H11N
reactant | triethylamine | 506 mmol, 70.4 ml | C(C)N(CC)CC | C6H15N
reactant | 2-bromobenzoyl chloride | 109.2 g | BrC1=C(C(=O)Cl)C=CC=C1 | C7H4BrClO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | N-Phenylethyl-2-bromobenzamide | C1(=CC=CC=C1)CCNC(C1=C(C=CC=C1)Br)=O | C15H14BrNO
